US08580794B2
Ethyl 2-hydroxy-6,6-dimethylcyclohex-1-enecarboxylate
Into a 500 mL flame dried round-bottomed flask was added copper(I) iodide (18 g) in ether (200 mL) to give a suspension. After cooling to −5° C., methyllithium (120 mL, 1.6M in ether) was added dropwise. After stirring at −5° C. for 1 hour, 3-methylcyclohex-2-enone (5.15 mL) in 15 ml ether was added dropwise, and the mixture was stirred at −5° C. for 1 hour. After cooling to −78° C., hexamethylphosphoramide (60 mL) was added dropwise. Ethyl carbonocyanidate (23.74 mL) was added. After stirring at −78° C. for 20 minutes, the mixture was warmed up to room temperature, and stirred for 1 hour. The mixture was poured into cold water, and the layers were separated. The aqueous layer was extracted with ether (3×20 mL). The combined organic layers were washed with saturated aqueous NH4Cl (3×20 mL), dried over Na2SO4, filtered, and dried under vacuum. The crude product was added to a silica gel column and purified by eluting with 0-10% ethyl acetate in hexane.

reactant | methyllithium | 1.6M, 120 mL | C[Li]
reactant | 3-methylcyclohex-2-enone | 5.15 mL | CC1=CC(CCC1)=O | C7H10O
reactant | hexamethylphosphoramide | 60 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | Ethyl carbonocyanidate | 23.74 mL | C(OCC)(=O)C#N | C4H5NO2
solvent | ether | 200 mL | CCOCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
catalyst | copper(I) iodide | 18 g | [Cu]I
solvent | water | O | H2O
product | Ethyl 2-hydroxy-6,6-dimethylcyclohex-1-enecarboxylate | OC1=C(C(CCC1)(C)C)C(=O)OCC | C11H18O3
